US05861421
A mixture of 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(2-pyridylethynyl)cyclohexane (0.17 g, 0.39 mmol) and pyridinium p-toluenesulfonate (0.10 g, 0.39 mmol) in acetone (4 mL) and water (1 mL) was refluxed for three days, then was evaporated. Water was added, the mixture was extracted three times with dichloromethane, the extract was dried (magnesium sulfate) and was evaporated. Purification by flash chromatography, eluting with 25:75 ethyl acetate:hexanes, provided 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(2-pyridylethynyl)cyclohexan-1-one as a wax. 1H-NMR (400 MHz, CDCl3) δ 8.61 (d, J=4.8 Hz, 1H), 7.68 (dt, J=7.8, 1.8 Hz, 1H), 7.47 (d, J=7.8 Hz, 1H), 7.27 (m, 1H), 7.20 (d, J=2.3 Hz, 1H), 7.15 (dd, J=8.5, 2.4 Hz, 1H), 6.87 (d, J=8.5 Hz, 1H), 4.81 (m, 1H), 3.85 (s, 3H), 3.07 (dt, J=14.4, 5.8 Hz, 2H), 2.49 (d, J=14.8 Hz, 2H), 2.41 (m, 2H), 2.27 (dt, J=13.4, 3.9 Hz, 2H), 1.8-2.0 (m, 6H), 1.61 (m, 2H). Anal. (C25H27NO3.0.65 H2O) calcd: C, 74.84; H, 7.11; N, 3.49; found: C, 75.00; H, 6.83; N, 3.52.

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-(2-pyridylethynyl)cyclohexane | 0.39 mmol, 0.17 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C#CC2=NC=CC=C2 | C27H31NO4
reactant | pyridinium p-toluenesulfonate | 0.39 mmol, 0.10 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | acetone | 4 mL | CC(=O)C | C3H6O
solvent | water | 1 mL | O | H2O
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(2-pyridylethynyl)cyclohexan-1-one | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)C#CC1=NC=CC=C1 | C25H27NO3
